US09079914B2
30-(6) Synthesis of N-[(4S,4aS,5R,7aS)-7a-(2-fluorophenyl)-5-methyl-4-(trifluoromethyl)-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]oxazin-2-yl]benzamide
1-Benzoyl-3-[(3S,4R,5R)-3-(2-fluoro-phenyl)-5-methyl-4-(2,2,2-trifluoro-1-hydroxy-ethyl)-tetrahydro-furan-3-yl]-thiourea (Preparation Example 30-(5)) (300 mg, 0.65 mmol) was dissolved in pyridine (1.39 g, 17.61 mmol). The reaction mixture was cooled to 0° C. Triflic anhydride (250 mg, 0.88 mmol) was added drop wise over 30 min, keeping temperature below 10° C. After 1 h, the reaction was concentrated then HCl 1M (50 ml) was added followed by extraction with DCM (2×50 ml). The organic phase was dried on MgSO4 and concentrated. The resulting mixture was purified by flash chromatography (Hexane/EtOAc 10-50%). 278 mg (93% yield) of the title compound (85%) and its isomer (15%) were isolated as a mixture.

reactant | 1-Benzoyl-3-[(3S,4R,5R)-3-(2-fluoro-phenyl)-5-methyl-4-(2,2,2-trifluoro-1-hydroxy-ethyl)-tetrahydro-furan-3-yl]-thiourea | 0.65 mmol, 300 mg | C(C1=CC=CC=C1)(=O)NC(=S)N[C@]1(CO[C@@H]([C@H]1C(C(F)(F)F)O)C)C1=C(C=CC=C1)F | C21H20F4N2O3S
reactant | pyridine | 17.61 mmol, 1.39 g | N1=CC=CC=C1 | C5H5N
reactant | Triflic anhydride | 0.88 mmol, 250 mg | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
product | N-[(4S,4aS,5R,7aS)-7a-(2-fluorophenyl)-5-methyl-4-(trifluoromethyl)-4a,5,7,7a-tetrahydro-4H-furo[3,4-d][1,3]oxazin-2-yl]benzamide | 278 mg, 93% yield | FC1=C(C=CC=C1)[C@@]12N=C(O[C@@H]([C@@H]1[C@H](OC2)C)C(F)(F)F)NC(C2=CC=CC=C2)=O | C21H18F4N2O3
